US07459477B2
Production of N-{2-(1,3-dimethylbutyl)-4-[1-methoxy-2,2,2-trifluoro-1-(trifluoromethyl)ethyl]-phenyl}-1,3,5-trimethylpyrazole-4-carboxamide (Compound No. 1-108)
1,3,5-Trimethylpyrazole-4-carboxylic acid (154 mg, 1 mmol) was dissolved in thionyl chloride (5 ml), and the solution was heated under reflux for 2 hours. The reaction solution was concentrated under reduced pressure, and the resulting acid chloride was added to a solution of 2-(1,3-dimethylbutyl)-4-[1-methoxy-2,2,2-trifluoro-1-(trifluoromethyl)ethyl]-aniline (345 mg, 1 mmol) and triethylamine (150 mg, 1.5 mmol) in tetrahydrofuran (10 ml) under ice-cooling, after which the resulting mixture was heated under reflux for 2 hours. The reaction mixture was diluted with ethyl acetate and then washed with water. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure, and the resulting residue was separated and purified by silica gel column chromatography. (hexane:ethyl acetate 1:2) to obtain 200 mg of the desired compound.

reactant | 1,3,5-Trimethylpyrazole-4-carboxylic acid | 1 mmol, 154 mg | CN1N=C(C(=C1C)C(=O)O)C | C7H10N2O2
reactant | 2-(1,3-dimethylbutyl)-4-[1-methoxy-2,2,2-trifluoro-1-(trifluoromethyl)ethyl]-aniline | 1 mmol, 345 mg | CC(CC(C)C)C1=C(N)C=CC(=C1)C(C(F)(F)F)(C(F)(F)F)OC | C16H21F6NO
reactant | triethylamine | 1.5 mmol, 150 mg | C(C)N(CC)CC | C6H15N
solvent | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-{2-(1,3-dimethylbutyl)-4-[1-methoxy-2,2,2-trifluoro-1-(trifluoromethyl)ethyl]-phenyl}-1,3,5-trimethylpyrazole-4-carboxamide | 200 mg, Yield: 41% | CC(CC(C)C)C1=C(C=CC(=C1)C(C(F)(F)F)(C(F)(F)F)OC)NC(=O)C=1C(=NN(C1C)C)C | C23H29F6N3O2
